US07906504B2
A solution of (E)-2-[2-(4-fluoro-3-methoxyphenyl)vinyl]-5-(4-methoxybenzyloxy)benzoic acid (600 mg, 1.47 mmol) in anhydrous THF (5 mL) was sparged with nitrogen for 5 min, then PdCl2(MeCN)2 (39 mg, 0.15 mmol), p-benzoquinone (175 mg, 1.62 mmol), and molecular sieves (10 mg) were added and the mixture stirred at room temperature for 24 h. The reaction mixture was diluted with ethyl acetate and washed with 1 N NaOH (aq.). The organic layer was washed with brine, dried (MgSO4) and concentrated in vacuo. The crude residue was purified by chromatography on silica gel with hexanes:EtOAc (2:1, v/v) as eluent to afford 3-(4-fluoro-3-methoxyphenyl)-7-(4-methoxybenzyloxy)isochromen-1-one (300 mg, 0.74 mmol, 50%).

reactant | (E)-2-[2-(4-fluoro-3-methoxyphenyl)vinyl]-5-(4-methoxybenzyloxy)benzoic acid | 1.47 mmol, 600 mg | FC1=C(C=C(C=C1)/C=C/C1=C(C(=O)O)C=C(C=C1)OCC1=CC=C(C=C1)OC)OC | C24H21FO5
reactant | p-benzoquinone | 1.62 mmol, 175 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(MeCN)2 | 0.15 mmol, 39 mg | CC#N.CC#N.Cl[Pd]Cl
product | 3-(4-fluoro-3-methoxyphenyl)-7-(4-methoxybenzyloxy)isochromen-1-one | 0.74 mmol, 300 mg, 50% | FC1=C(C=C(C=C1)C=1OC(C2=CC(=CC=C2C1)OCC1=CC=C(C=C1)OC)=O)OC | C24H19FO5
